US04220647
N-benzyloxycarbonyl-N-isopropylaminoacetaldehyde diethyl acetal (9 g) and 3,4-dihydroxyphenethylamine hydrochloride (4.5 g) were added to a mixture of n-butyl alcohol (100 ml) and water (15 ml) and then the mixture was refluxed for 6 hours. The above-mentioned acetal (2 g) was added thereto and the resultant mixture was refluxed for 1.5 hours. The solvent was distilled off from the reaction mixture. To the residue was added a mixed solvent of isopropyl alcohol, methanol and ether. The crystals obtained were recrystallized from the same mixed solvent to give 1-(N-benzyloxycarbonyl-N-isopropylaminomethyl)-7,8-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (1.6 g), mp 200° to 205° C. (dec). The mother liquor was concentrated and allowed to stand to give 1-(N-benzyloxycarbonyl-N-isopropylaminomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (4.4 g), colorless crystals, mp 207° to 210° C. (dec).

reactant | N-benzyloxycarbonyl-N-isopropylaminoacetaldehyde diethyl acetal | 9 g | C(C)OC(CN(C(C)C)C(=O)OCC1=CC=CC=C1)OCC | C17H27NO4
reactant | 3,4-dihydroxyphenethylamine hydrochloride | 4.5 g | Cl.OC=1C=C(CCN)C=CC1O
reactant | n-butyl alcohol | 100 ml | C(CCC)O | C4H10O
solvent | water | 15 ml | O | H2O
product | 1-(N-benzyloxycarbonyl-N-isopropylaminomethyl)-7,8-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 1.6 g | Cl.C(C1=CC=CC=C1)OC(=O)N(C(C)C)CC1NCCC2=CC=C(C(=C12)O)O | InChI=1S/C21H26N2O4.ClH/c1-14(2)23(21(26)27-13-15-6-4-3-5-7-15)12-17-19-16(10-11-22-17)8-9-18(24)20(19)25;/h3-9,14,17,22,24-25H,10-13H2,1-2H3;1H
